US04801590
1.5 g (0.005 mol) of 1-methyl-6-bromo-1,2-dihydropyrido[2,3-c][1,8]naphthyridin-3(4H)-one are hydrogenated for 24 hours at room temperature and atmospheric pressure in a mixture of 100 ml of ethanol and 100 ml of glacial acetic acid with Pd/C (0.3 g/10%) with addition of 0.4 g (0.005 mol) of Na-acetate. The catalyst is removed by filtration under suction, the filtrate is concentrated, and the residue is recrystallized from ethanol. 0.7 g (64.4% of theory) of 1-methyl-1,2,7,8,9,10-hexahydropyrido[2,3-c][1,8]naphthyridin-3(4H)one is obtained.

reactant | 1-methyl-6-bromo-1,2-dihydropyrido[2,3-c][1,8]naphthyridin-3(4H)-one | 0.005 mol, 1.5 g | CC1C=2C3=C(C(=NC2NC(C1)=O)Br)N=CC=C3 | C12H10BrN3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1-methyl-1,2,7,8,9,10-hexahydropyrido[2,3-c][1,8]naphthyridin-3(4H)one | 0.7 g, 64.4% | CC1C=2C3=C(C=NC2NC(C1)=O)NCCC3 | C12H15N3O
